US07214798B2
8.1. 2-[1-(2-Quinolyl)-4-piperidyl]ethanol
The process is performed as in Example 4 (step 4.1). Starting with 2 g (12.20 mmol) of 2-chloroquinoline and 1.58 g (12.20 mmol) of 2-(4-piperidyl)-ethanol, and after chromatography on silica gel, eluting with a 98/2/0.2 and then 95/5/0.5 mixture of dichloromethane, methanol and 28% aqueous ammonia, 2.36 g of pure product are obtained in the form of a pale yellow oil that crystallizes at room temperature.

reactant | 2-chloroquinoline | 12.20 mmol, 2 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 2-(4-piperidyl)-ethanol | 12.20 mmol, 1.58 g | N1CCC(CC1)CCO | C7H15NO
product | 2-[1-(2-Quinolyl)-4-piperidyl]ethanol | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)CCO | C16H20N2O
